US08445501B2
4-(2-Cyclopropylmethoxy-5-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(1-hydroxy-cyclopropanecarbonyl)-piperidin-4-yl]-amide
Starting from 4-(2-cyclopropylmethoxy-5-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide (example A171) and acetic acid 1-chlorocarbonyl-cyclopropyl ester the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide | N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)C)OCC2CC2 | C23H27N5O2
reactant | acetic acid 1-chlorocarbonyl-cyclopropyl ester | ClC(=O)C1(CC1)OC(C)=O | C6H7ClO3
product | 4-(2-Cyclopropylmethoxy-5-methyl-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(1-hydroxy-cyclopropanecarbonyl)-piperidin-4-yl]-amide | OC1(CC1)C(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)C)OCC2CC2 | C27H31N5O4
